US09328118B2
Lithium tetrahydroborate (730 mg) was added to a solution of ethyl(1-cyclopropylpiperidin-4-yl)acetate (2.1 g) in THF (53 mL) under ice-cooling. MeOH (2.4 mL) was added thereto, and the mixture was stirred at room temperature overnight. After water and EtOAc were added to the reaction mixture, the mixture was stirred for 30 minutes, and extraction was performed using EtOAc. The organic layer was dried over Na2SO4 and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (Hex:EtOAc=80:20 to 60:40), whereby 2-(1-cyclopropylpiperidin-4-yl)ethanol (1.3 g) was obtained as a pale yellow oil.

reactant | Lithium tetrahydroborate | 730 mg | [BH4-].[Li+]
reactant | ethyl(1-cyclopropylpiperidin-4-yl)acetate | 2.1 g | C(C)OC(CC1CCN(CC1)C1CC1)=O | C12H21NO2
reactant | MeOH | 2.4 mL | CO | CH4O
reactant | water | O | H2O
solvent | THF | 53 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(1-cyclopropylpiperidin-4-yl)ethanol | 1.3 g | C1(CC1)N1CCC(CC1)CCO | C10H19NO
